US03963706
a. 2-Chloro-N-(3-trifluoromethyl-4-sulphamoylphenyl)-acetamide
3-Trifluoromethyl-4-sulphamoylaniline (24.0g) and α-chloroacetyl chloride (20 ml) were refluxed together 30 mins and the mixture worked up as in Example 2(a) to yield 28 g, m.p. 185°-190°

reactant | 3-Trifluoromethyl-4-sulphamoylaniline | 24.0g | FC(C=1C=C(N)C=CC1S(N)(=O)=O)(F)F | C7H7F3N2O2S
reactant | α-chloroacetyl chloride | 20 ml | ClCC(=O)Cl | C2H2Cl2O
product | 2-Chloro-N-(3-trifluoromethyl-4-sulphamoylphenyl)-acetamide | ClCC(=O)NC1=CC(=C(C=C1)S(N)(=O)=O)C(F)(F)F | C9H8ClF3N2O3S
